US05126065
In a 1-liter three-necked flask equipped with a Dimroth reflux condenser and a thermometer, 200 ml of cyclopentadiene and 200 ml of hexane were placed, cooled on water bath, and 200 ml of methyl vinyl ketone was added dropwise thereto while stirred over 30 minutes, and then stirred for 30 minutes, to obtain acetyl norbornene.

reactant | cyclopentadiene | 200 ml | C1=CC=CC1 | C5H6
reactant | methyl vinyl ketone | 200 ml | C(=C)C(=O)C | C4H6O
reactant | hexane | 200 ml | CCCCCC | C6H14
product | acetyl norbornene | C(C)(=O)C12C=CC(CC1)C2 | C9H12O
